US09340538B2
Step C: Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(1H-1,2,4-triazol-3-yl)-1,4-dihydropyrimidine-5-carboxylate
Ethyl 4-(2-bromo-4-fluorophenyl)-6-methyl-2-(1H-1,2,4-triazol-3-yl)-1,4-dihydropyrimidine-5-carboxylate (0.82 g, 2 mmol) was reacted with NBS (0.39 g, 2.2 mmol) in chloroform (40 mL) according to the procedure as described in Example 1, Step B to give the title compound as a yellow solid (0.44 g, 45%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-methyl-2-(1H-1,2,4-triazol-3-yl)-1,4-dihydropyrimidine-5-carboxylate | 2 mmol, 0.82 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)C)C1=NNC=N1 | C16H15BrFN5O2
reactant | NBS | 2.2 mmol, 0.39 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | chloroform | 40 mL | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(1H-1,2,4-triazol-3-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.44 g, 45% | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C1=NNC=N1 | C16H14Br2FN5O2
